US07399775B2
3-[4-[(4-Chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)butyl]-2-oxazolidinone
Under a nitrogen atmosphere and at 0° C., sodium hydride (60% dispersion in mineral oil, 13.6 mg, 0.340 mmol) was added to a tetrahydrofuran solution (5 ml) of 2-iodoethyl N-[4-[(4-chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)butyl]carbamate (158 mg, 0.283 mmol). The resulting mixture was stirred at room temperature for 18 hours. Water was added to the reaction mixture, followed by extraction wth ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and then concentrated. The residue thus obtained was subjected to flash chromatography on a silica gel column, and the fraction obtained from the hexane:ethyl acetate=1:2 eluate was concentrated. The solid thus obtained was recrystallized from ethyl acetate-hexane, whereby the title compound (52.1 mg, 0.121 mmol, 43%) was obtained as colorless needle crystals.

reactant | sodium hydride | 0.340 mmol, 13.6 mg | [H-].[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | 2-iodoethyl N-[4-[(4-chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)butyl]carbamate | 0.283 mmol, 158 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCNC(OCCI)=O)C1=C(C=CC(=C1)F)F | C19H19ClF2INO4S
reactant | Water | O | H2O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | hexane | CCCCCC | C6H14
product | 3-[4-[(4-Chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)butyl]-2-oxazolidinone | 0.121 mmol, 52.1 mg, 43% | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCN1C(OCC1)=O)C1=C(C=CC(=C1)F)F | C19H18ClF2NO4S
